US07368578B2
To a mixture of ethyl (4-hydroxy-3-methoxyphenyl)acetate (7.00 g), potassium carbonate (5.43 g) and N,N-dimethylformamide (100 mL) was added 4-chloromethyl-2-(2-furyl)-5-methyl-1,3-oxazole (7.77 g) with stirring, and the mixture was stirred overnight at 80° C. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with distilled water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give ethyl(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxyphenyl)acetate from a fraction eluted with ethyl acetate-hexane (1:4, v/v). Recrystallization from ethyl acetate-hexane gave white crystal (8.22 g, yield 56%) melting point: 106-107° C.

reactant | ethyl (4-hydroxy-3-methoxyphenyl)acetate | 7.00 g | OC1=C(C=C(C=C1)CC(=O)OCC)OC | C11H14O4
reactant | potassium carbonate | 5.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
reactant | 4-chloromethyl-2-(2-furyl)-5-methyl-1,3-oxazole | 7.77 g | ClCC=1N=C(OC1C)C=1OC=CC1 | C9H8ClNO2
solvent | Water | O | H2O
product | ethyl(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxyphenyl)acetate | C(C)OC(CC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OC)=O | C20H21NO6
